US09416095B2
The Synthesis of Threonine Diacetic Acid
The solution obtained in example 1 was acidified using an ion exchange resin. Acidification took place using Amberlite IR-120, a strong acid ion exchange resin: 55 g of GLDA solution, 110 g of Amberlite IR-120 as such, and ca 100 g of water were stirred in a 500 ml round-bottomed flask for at least 48 h. After filtering off the resin the solution was dried by evaporation of water at reduced pressure at 70° C. The light-coloured crispy foam obtained was further dried in a vacuum oven at 65° C. This resulted in a solid product in a yield of circa 85%.

reactant | GLDA | 55 g | C(CC(=O)[O-])[C@@H](C(=O)[O-])N(CC(=O)[O-])CC(=O)[O-].[Na+].[Na+].[Na+].[Na+]
reactant | water | ca 100 g | O | H2O
product | Threonine Diacetic Acid | yield of circa 85% | C(CN([C@@H]([C@H](O)C)C(=O)O)CC(=O)O)(=O)O | C8H13NO7
